US07109202B2
(6-Methyl-pyridin-2-yl)-thiourea
6-Methyl-pyridin-2-ylamine (1.0 g, 9.2 mmol) is dissolved in ethanol (10 ml) and benzoylisothiocyanate (1.24 ml, 9.2 mmol) is added dropwise. The mixture is heated to 40° C. with stirring for 10 minutes then allowed to cool to room temperature. The solvent is removed in vacuo and the resulting solid dissolved in 1M sodium hydroxide (15 ml) and heated under reflux for 2 hour. The resultant suspension is filtered and the solid washed copiously with water and then with cold ethanol. The solid is dried in vacuo to yield the title compound. Mass Spec (APCI+) 168.

reactant | 6-Methyl-pyridin-2-ylamine | 9.2 mmol, 1.0 g | CC1=CC=CC(=N1)N | C6H8N2
reactant | benzoylisothiocyanate | 9.2 mmol, 1.24 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (6-Methyl-pyridin-2-yl)-thiourea | CC1=CC=CC(=N1)NC(=S)N | C7H9N3S
